Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Crestor / Cortisone
 
Attending: ___.
 
Chief Complaint:
Encephalopathy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
In brief, this patient is a ___ y/o F w/PMH significant for 
dementia w/delusions, CAD, HTN and depression who presented from 
nursing facility on ___ with one day of increased SOB and 
decreased activity. Per her caregivers at her nursing facility, 
she has also had increased confusion over the past week 
associated with lethargy.

3 weeks ago, pt was started on "low dose" risperidone, which was 
subsequently decreased to 0.125mg QHS because of sedation. She 
was also started on sertraline 20mg QDay. This was discontinued 
on the day of admission, as was melatonin and her AM dose of 
trazadone (although she continues to take 25mg QDay).

In the ED, VS were 97.6, 85, 132/67, 24, 97% RA. Labs showed BNP 
of 1589 (2475 in ___ @ ___ and BUN of 37. Pt otherwise 
received no medications in the ED.

On admission, pt reported feeling well without complains. She 
was AOx1-2 (person/year). At the time of our meeting, pt was 
AOx1 (person only), and could not answer questions directly 
despite repeated questioning. Spoke this AM with ___, 
pt's care manager in ___, who sees her 2x/week. Reports an 
acute decompensation over the course of the past week. At 
baseline, pt is conversive, albeit tangential. Pt able to manage 
some of her of her own ADLs normally, although Ms. ___ 
raised a concern that she was not taking the proper doses of 
many of her medications.
 
Past Medical History:
CONGESTIVE HEART FAILURE  
DEMENTIA WITH DELUSIONS  
CORONARY ARTERY DISEASE  
HYPERTENSION  
DEPRESSION  
GLAUCOMA  
OSTEOARTHRITIS  
CHRONIC LOW BACK PAIN  

 
Social History:
___
Family History:
Mother had breast cancer otherwise noncontributory 
 
Physical Exam:
Admission Physical Exam:
GENERAL: NAD, cachectic woman lying in bed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, poor dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
  
Discharge Physical Exam:
Vitals: 97.5 Tmax: 98.3 130-169/74-56 87 18 100%RA
General: No acute distress
HEENT: Dry mucous membranes
CV: RRR. S1 and S2, No MRG appreciated.
Lungs: Minor crackles in Right lung. Apex clear to auscultation 
bilaterally. Left lung CTA.
Abdomen: Soft, ND. Some subjective TTP. No organomegaly 
appreciated.
GU: Wearing an incontinence diaper.
Ext: No peripheral edema. DP/radial pulses 2+, equal 
bilaterally.
Neuro: AOx1 (name). ___ to questions relatively 
appropriately and wants to sleep.
Skin: Multiple ecchymoses on arms/legs bilaterally. No rashes 
appreciated.

 
Pertinent Results:
Admission Labs:
___ 06:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:04PM   LACTATE-1.3
___ 04:45PM   GLUCOSE-110* UREA N-37* CREAT-1.0 SODIUM-136 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-30 ANION GAP-14
___ 04:45PM   estGFR-Using this
___ 04:45PM   cTropnT-<0.01 proBNP-1589*
___ 04:45PM   TSH-2.7
___ 04:45PM   WBC-6.2 RBC-3.73* HGB-12.1 HCT-36.3 MCV-97 
MCH-32.3* MCHC-33.2 RDW-13.9
___ 04:45PM   NEUTS-77.5* LYMPHS-11.9* MONOS-8.0 EOS-2.3 
BASOS-0.3
___ 04:45PM   PLT COUNT-189

CT abdomen and Pelvis
IMPRESSION: 
1. Large right abdominal wall musculature hematoma measuring 7.1 
x 1.9 x 15.5 cm with possible active bleeding. Recommend 
correlation with hematocrit. 
2. No evidence of acute intra-abdominal process. 
3. Extensive atherosclerotic plaque of the intra-abdominal 
vasculature with least moderate stenosis of the celiac, SMA and 
bilateral renal arteries. 

Discharge Labs:
___ 05:55AM BLOOD WBC-8.0 RBC-3.72* Hgb-11.3* Hct-34.2* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-15.5 Plt ___
___ 05:55AM BLOOD Plt ___
___ 05:55AM BLOOD UreaN-30* Creat-0.5 Na-141 K-4.2 Cl-104 
HCO3-23 AnGap-18
___ 06:25AM BLOOD Calcium-9.5 Phos-3.1 Mg-1.___ltered mental status: Patient was known to have baseline 
dementia, although per ___, she was acutely 
decompensated. The etiology of her acute decompensation was 
likely multifactorial, with polypharmacy being the most likely 
contributor. As such, her risperidone, sertraline, meclizine, 
melatonin and trazodone were all held. It was also believed that 
her hypovolemia was also a significant contributor. Otherwise, 
there was no evidence for infection, as the patient was afebrile 
without leukocytosis, had an unremarkable UA clean, a CXR 
without focal consolidation and a normal TSH. In the setting of 
our interventions, pt's mental status gradually improved over 
the course of her hospitalization.
  
#Hypovolemia: Patient appeared hypovolemic on admission, and her 
furosemide was held. Given her CHF (see below), she was given a 
goal of at least 800mL PO fluid each day. Her exact volume 
status was difficult to follow, as strict I/O could not be 
performed in the setting of this patient's incontinence.

#Dementia with delusions: As described above, pt's psychactive 
medications were held during this admission. Pt described a 
number of delusions during the course of her hospitalization, 
although it was not clear if this was related to her underlying 
disease or delirium. Psychiatry was consulted, and they followed 
patient throughout her hospitalization. We also spoke with ___ 
___, who manages pt's outpatient psychiatry medications, who 
recommended restarting Seroquel on discharge.

#Rectus Sheath Hematoma: Patient was found to have a rectus 
sheath hematoma on ___ from use of SC Heparin. She was 
reversed with protamine and given 2 units of blood which caused 
her crit to rise from 27 to 37. She had a stable crit on 
discharge.

#CHF: It was unclear if pt had systolic or diastolic dysfunction 
predominant as there was no Echo in system. BNP 1589 down from 
2475 in ___. Dry weight is unknown. Initially thought that 
pt had CHF exacerbation. However, her physical exam was more 
consistent with a hypovolemic picture, which was likely 
contributing to her encephalopathy. As such, pt was slowly 
hydrated (goal of at least 800cc PO intake each day). 
Additionally, her furosemide was held. Of note, patient had 
crackles in her Right lung base on admission that gradually 
improved during her hospitalization. Her Left lung was otherwise 
clear to auscultation.

#HTN: Patient's blood pressure was very labile during this 
hospitalization. On admission to medicine, her BP was 185/79. 
She was initially given a dose of labetalol and a dose of 
captopril, which did not significantly lower her blood pressure. 
Per last discharge summary from ___, pt's last hospitalization 
was complicated by labile blood pressures. Furthermore, she had 
previously been intolerant of Ace inhibitors, although her exact 
intolerance was not clear. Patient had been discharged on 
labetalol 25mg TID with strict holding parameters, though this 
had been discontinued in the interval, although the exact reason 
was not clear. She was restarted on labetalol 25mg TID with 
holding parameters for BP < 150. Her blood pressures remained 
labile, and ranged between the 120's-180's. Pt otherwise 
remained asymptomatic.

#Discharge: Patient's discharge status was discussed at length 
with ___, her health care power of attorney, ___ 
___ and ___ case management. Ultimately, it was decided 
that patient would be discharged back to ___ with 
increased services.

#CAD: Patient was conitnued on ASA 81mg daily during this 
hospitalization. She had no complaints of chest pain during this 
hospitalization.

#Depression: Sertraline was held for the duration of her 
hospitalization in the setting of altered mental status.

#Constipation: Patient had a standing bowel regimen of senna and 
colace during her hospitalization and produced regular bowel 
movements.

# FEN: IVF prn, replete electrolytes, 2gm heart healthy diet  
# Prophylaxis: Subcutaneous heparin, bowel regimen, pain control 
with tylenol prn  
# Access: ___  
# Code: ___, MD confirmed DNR/DNI with HCP by 
phone ___ @___  
# Communication: Patient  
# Emergency Contact: ___ (HCP, ___) ___  
# Disposition: Medicine pending above workup  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
3. Calcitriol 0.25 mcg PO DAILY 
4. Furosemide 10 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Omeprazole 20 mg PO DAILY 
7. RISperidone Oral Solution 0.125 mg PO HS 
8. Sertraline 40 mg PO QAM 
9. TraZODone 25 mg PO DAILY 
10. Calcium Carbonate 300 mg PO TID 
11. Bisacodyl 10 mg PR HS:PRN constipation 
12. Meclizine 12.5 mg PO QAM:PRN ?dizziness 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Senna 8.6 mg PO DAILY:PRN constipation 
15. melatonin 5 mg oral qhs 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
3. Calcitriol 0.25 mcg PO DAILY 
4. Calcium Carbonate 300 mg PO TID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Omeprazole 20 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Senna 8.6 mg PO DAILY:PRN constipation 
9. Bisacodyl 10 mg PR HS:PRN constipation 
10. Labetalol 25 mg PO TID 
Please hold for systolic blood pressure less than 150 
RX *labetalol 100 mg 0.25 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0
11. Acetaminophen 650 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear ___ were admitted to ___ for treatment of a change in your 
mental status. Your caretakers had become concerned that ___ 
were not thinking as clearly as ___ normally would. We felt that 
this was due to at least two things. First, ___ were on several 
medications that could have caused, this. Secondly, ___ were a 
little bit dehydrated when ___ were admitted. We stopped the 
medications that we thought could be causing your confusion, and 
we also tried to make sure that ___ stayed hydrated during your 
hospitalization. ___ gradually improved with these treatments. 
___ had a minor bleed in your abdomen muscle and given blood and 
a medication (Protamine) to reverse the bleed.

It was a sincere pleasure to help take care of ___ during your 
hospitalization, and I wish ___ all the best moving forward.

Sincerely,
___
 
Followup Instructions:
___